US07378410B2
To a stirred solution of (E)-(2R,3R,4S,5R)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoic acid [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-amide (0.13 g, 0.25 mmol) in THF (2 mL) is added H2O and triphenylphosphine (0.120 g, 0.5 mmol). After 8 h the reaction solution is evaporated under vacuum to give a semisolid residue that is dissolved in CH2Cl2 (10 mL), adsorbed on silica and chromatographed (CH2Cl2/NH3 to 25% CH3OH/CH2Cl2/NH3 gradient) to give 0.106 g (85%) of (E)-(2R,3R,4S,5R)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoic acid [(3S,6R)-6-(6-amino-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-amide as a white solid. MS (ESI) 502.1 (M+H)+

reactant | (E)-(2R,3R,4S,5R)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoic acid [(3S,6R)-6-(6-azido-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-amide | 0.25 mmol, 0.13 g | N(=[N+]=[N-])CCCCCCO[C@@H]1CC[C@@H](C(N(C1)C)=O)NC([C@@H]([C@@H]([C@H]([C@@H](\C=C\C(C)(C)C)O)O)O)OC)=O | C25H45N5O7
reactant | H2O | O | H2O
reactant | triphenylphosphine | 0.5 mmol, 0.120 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (E)-(2R,3R,4S,5R)-3,4,5-trihydroxy-2-methoxy-8,8-dimethyl-non-6-enoic acid [(3S,6R)-6-(6-amino-hexyloxy)-1-methyl-2-oxo-azepan-3-yl]-amide | 0.106 g, 85% | NCCCCCCO[C@@H]1CC[C@@H](C(N(C1)C)=O)NC([C@@H]([C@@H]([C@H]([C@@H](\C=C\C(C)(C)C)O)O)O)OC)=O | C25H47N3O7
